Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Left foot pain and swelling 
 
Major Surgical or Invasive Procedure:
Joint arthrocentesis 
 
History of Present Illness:
HISTORY OF PRESENTING ILLNESS:  
 ___ is a ___ year old male with a history of chronic C4 
glomerulonephritis and proteinuria presenting after a recent 
trip to ___ with swelling and pain in his left foot.  
 Patient states that he returned from ___ on ___ at 
which point some swelling on the distal portion of his left 
plantar foot. He states that he then developed swelling and pain 
in his left ankle. Over the weekend, the pain increased to the 
point where he was unable to tolerate much activity at all. He 
took a dose of ibuprofen for pain relief. He states that he was 
unable to ambulate on the ankle. Pt reports developing similar 
swelling in his ankles roughly a year ago that prevented him 
from getting off the couch for a few days. He states that over 
roughly 10 days, his symptoms improved spontaneously. For this 
episode, he was able to go to a PCP visit today where labs 
demonstrated a WBC of 16 and D-dimer of 1646 prompting concern 
for an infectious process vs. VTE. MRI of his left foot and 
ultrasound of his LLE were also obtained and pt received CTX 1g 
IV x 1. Of note, pt's MRI foot did not show evidence of OM, but 
did show possible tibiotalar joint effusion and MTP joint 
effusion with findings possible consistent with gout. In 
addition, the LLE U/S was negative for DVT. Pt was referred to 
the ED for further evaluation.  
 In the ED, initial vital signs were: 98.3 94 137/75 17 100% RA  

 - Exam was notable for: Intact distal pulses and sensation is 
intact, the left foot and calf are both swollen and tender to 
palpation  
 - Labs were notable for: WBC 15.3, H/H 9.7/29.1, plts 240, Na 
138, BUN/Cr ___ from baseline , CRP 139.1.  
 - UA pH 6.0, SG 1.017, 300 protein, 40 WBC, 46 RBC, lg blood, 
sm leuks, neg nitrites  
 - Imaging: Left foot and ankle X-ray without fracture, but 
evidence of DJD; LLE ultrasound without DVT.  
 - The patient was given: Percocet x 2  
 - Consults: Orthopedics was consulted in the ED and believed 
that there was low likelihood for osteomyelitis or septic joint, 
but did believe the presentation was consistent with gout flare. 
Pt was also seen by vascular surgery who believed the problem 
was not vascular, but likely represents gout vs. other 
arthritis.  
 Vitals prior to transfer were: 99.0 73 129/71 15 100% RA  
 Upon arrival to the floor, pt reports that the Percocet was 
ineffective and his ankle is very painful to minimal touch. In 
addition, he states that the first MTP on his right foot is 
beginning to feel painful.  
 REVIEW OF SYSTEMS: Negative except as above.  

 
Past Medical History:
Chronic C3 glomerulopathy  
 Proteinuria 
 
Social History:
___
Family History:
FAMILY HISTORY:  
No family history of GN  
Father with history of gout
 
Physical Exam:
ADMISSION EXAM 
==============
VITALS: 100.4 142/75 77 18 100% on RA, Wt 87.8 kg  
GENERAL: Pleasant, well-appearing, in no apparent distress.  
HEENT - normocephalic, atraumatic, no conjunctival pallor or 
scleral icterus, PERRLA.  
NECK: Supple.  
CARDIAC: RRR, normal S1/S2, no murmurs rubs or gallops.  
PULMONARY: Clear to auscultation bilaterally, without wheezes or 
rhonchi.  
ABDOMEN: Normal bowel sounds, soft, non-tender, non-distended, 
no organomegaly.  
EXTREMITIES: Left ankle warm with palpable effusion and TTP, 
left ___ MTP mildly tender with some warmth, right ___ MTP 
mildly tender.  
SKIN: Without rash.  
NEUROLOGIC: A&Ox3.  

DISCHARGE EXAM
==============
Vitals: T:98.1 BP:132/76 P:66 R:18 O2:100RA  
GENERAL: Pleasant, well-appearing, in no apparent distress.  
HEENT - normocephalic, atraumatic, no conjunctival pallor or 
scleral icterus, PERRLA.  
NECK: Supple.  
CARDIAC: RRR, normal S1/S2, no murmurs rubs or gallops.  
PULMONARY: Clear to auscultation bilaterally, without wheezes or 
rhonchi.  
ABDOMEN: Normal bowel sounds, soft, non-tender, non-distended, 
no organomegaly.  
EXTREMITIES: Left ankle warm with palpable effusion and TTP 
diffusely, left ___ MTP mildly tender with some warmth, no 
overlying skin erythema, right ___ MTP tender to light palpation 
without swelling or erythema. full ROM at right ankle joint. 
limited active and passive ROM at left ankle joint due to severe 
pain and swelling. remainder of joint exam was wnl.  
SKIN: Without rash.  
NEUROLOGIC: A&Ox3.  

 
Pertinent Results:
ADMISSION LABS
==============
___ 08:45PM URINE  MUCOUS-RARE
___ 08:45PM URINE  GRANULAR-3* HYALINE-22*
___ 08:45PM URINE  RBC-46* WBC-40* BACTERIA-FEW YEAST-NONE 
EPI-0
___ 08:45PM URINE  BLOOD-LG NITRITE-NEG PROTEIN-300 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-SM 
___ 08:45PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 08:45PM URINE  GR HOLD-HOLD
___ 09:26PM   ___ PTT-30.7 ___
___ 09:26PM   PLT COUNT-240
___ 09:26PM   NEUTS-80.9* LYMPHS-11.3* MONOS-7.1 EOS-0.1* 
BASOS-0.1 IM ___ AbsNeut-12.38* AbsLymp-1.73 AbsMono-1.08* 
AbsEos-0.01* AbsBaso-0.02
___ 09:26PM   WBC-15.3* RBC-3.25* HGB-9.7* HCT-29.1* MCV-90 
MCH-29.8 MCHC-33.3 RDW-12.3 RDWSD-39.8
___ 09:26PM   CRP-139.1*
___ 09:26PM   estGFR-Using this
___ 09:26PM   GLUCOSE-125* UREA N-28* CREAT-1.5* SODIUM-138 
POTASSIUM-4.2 CHLORIDE-106 TOTAL CO2-22 ANION GAP-14

DISCHARGE LABS
==============

___ 07:00AM BLOOD WBC-15.0* RBC-3.01* Hgb-8.9* Hct-26.9* 
MCV-89 MCH-29.6 MCHC-33.1 RDW-12.1 RDWSD-39.0 Plt ___
___ 07:00AM BLOOD Plt ___
___ 07:00AM BLOOD Glucose-132* UreaN-30* Creat-1.3* Na-138 
K-4.2 Cl-106 HCO3-26 AnGap-10
___ 07:00AM BLOOD Calcium-8.2* Phos-3.2 Mg-2.1

STUDIES
=======

Left lower extremity ultrasound 
No evidence of deep venous thrombosis in the left lower 
extremity veins.

Left Foot Xray 
No fracture or dislocation.  Degenerative changes, as noted 
above with areas of spurring and small fragments at the 
tibiotalar joint, possibly related to prior injury.

MICRO 
=====
URINE CULTURE (Final ___:    NO GROWTH.

Joint Fluid: 
GRAM STAIN (Final ___: 2+   ___ per 1000X FIELD):   
POLYMORPHONUCLEAR LEUKOCYTES. NO MICROORGANISMS SEEN. 

FLUID CULTURE (Preliminary):

Chlamydia trachomatis, Nucleic Acid Probe, with Amplification 
(Pending): 

NEISSERIA GONORRHOEAE (GC), NUCLEIC ACID PROBE, WITH 
AMPLIFICATION (Pending):

___ 04:45PM JOINT FLUID ___ Polys-98* 
___ ___ 04:45PM JOINT FLUID Crystal-FEW Shape-NEEDLE 
Locatio-I/E Birefri-NEG Comment-c/w monoso
 
Brief Hospital Course:
___ year old with chronic C4 glomerulopathy and proteinuria 
presenting with a polyarticular inflammatory arthritis, also 
found to have ___. 

ACTIVE ISSUES 
============= 

# Acute Gouty Polyrthritis: Left foot swelling with isolated 
tenderness to left MTP and also right MTP joints was most 
consistent with gout. He was evaluated by orthopedics and 
vascular surgery in the ED, given elevated D dimer on outpatient 
labs. Left lower extremity dopplers were negative for DVT. There 
was low suspicion for septic joint. Rheumatology was consulted. 
Arthrocenteis was performed with negative ___, <50,000 WBC, and 
needle Monosodium Urate Crystals with negative birefrig 
consistent with gout flare. He was given 60mg PO Prednisone with 
improvement in his swelling and pain. He was discharged on a PO 
prednisone taper, with initiation of colchicine and allopurinol 
daily for gout prophylaxis. He will have follow up with a 
rheumatologist at ___ as an outpatient. CCP was negative (<16), 
RF was 20 and Urine GC/Chlamydia was negative. Joint fluid 
culture results were pending at the time of discharge but were 
preliminarily no growth. 

# ___ on CKD, C3 GN: Pt presented with Cr 1.6 from baseline 1.3 
in the setting of recent NSAID use and inflammatory arthritis. 
Cr returned to baseline s/p IVF and holding NSAIDS. Home 
lisinopril was restarted and he was set up to see a nephrologist 
in the outpatient setting on ___. Protein/Cr ratio was elevated 
at 12.3 on admission, to be follow up on the day after discharge 
in Nephrology as an outpatient. 

CHRONIC ISSUES 
==============

# Hypertension: Continued home lisinopril 

# Nasal congestion: Continued home Flonase  

TRANSITIONAL ISSUES 
===================
# Gout/Rheumatology 
- Final joint fluid culture pending at discharge 
- Patient will need Rheumatology follow up upon discharge, to be 
arranged by PCP through ___. 
- Started on daily colchicine 0.6mg and allopurinol ___ for 
prophylaxis. To be continued daily unless otherwise directed in 
Rheumatology follow up. 
- Recommend eating red meat and drinking alcohol in moderation 
to avoid precipitating gout attacks. 
- Prednisone taper
___: 50mg 
___: 40mg
___: 30mg 
___: 20mg 
___: 10mg 
___: 5mg 
___: Stop 

# C3 glomerulopathy and proteinuria
- Patient with scheduled Nephrology follow up on ___
- Holing NSAIDs on discharge 

# CONTACT: ___ (partner) ___ 
# CODE STATUS: Full code 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 
2. Vitamin D ___ UNIT PO 1X/WEEK (MO) 
3. Vitamin D ___ UNIT PO DAILY 
4. Fluticasone Propionate NASAL 1 SPRY NU DAILY 

 
Discharge Medications:
1. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
2. Vitamin D ___ UNIT PO DAILY 
3. Vitamin D ___ UNIT PO 1X/WEEK (MO) 
4. PredniSONE 10 mg PO DAILY Duration: 18 Days 
Take 5 pills x1day, Then 4 pills x3day; 3 pills x3day,2 pill 
x3day,1 pill ___ pill x3 days. 
Tapered dose - DOWN 
RX *prednisone 10 mg 1 tablet(s) by mouth daily starting ___ 
Disp #*37 Tablet Refills:*0
5. Lisinopril 10 mg PO DAILY 
6. Colchicine 0.6 mg PO DAILY 
RX *colchicine 0.6 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0
7. Allopurinol ___ mg PO DAILY 
RX *allopurinol ___ mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis 
Gout 

Secondary Diagnosis 
C3 glomerulopathy and proteinuria
Hypertension 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid 
(crutches).
 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you during your 
hospitalization. Briefly, you were admitted with swelling in 
your left foot and pain in your right foot. You were given 
steroids and your symptoms improved. The Rheumatologists sampled 
the fluid in your ankle and this showed signs consistent with 
gout. Please continue taking the Prednisone according to the 
following taper:
 
___: 50mg (5 pills)
___: 40mg (4 pills)
___: 30mg (3 pills)
___: 20mg (2 pills)
___: 10mg (1 pill)
___: 5mg ___ pill)
___: Stop 

You will also start taking the medications Colchicine and 
Allopurinol daily, which will help to prevent gout attacks in 
the future. 

Please follow up with your nephrologist on ___ and 
discuss whether or not it is safe to resume taking your NSAIDs. 
If you are in pain, it is safe to take Tylenol.  

We wish you the best, 

Your ___ Treatment Team 
 
Followup Instructions:
___